US03995056
A mixture of 14.2 g of 3-(2'-oxo-3'-ethoxycarbonylbutyl)-benzophenone and 142 ml of 6N hydrochloric acid was refluxed with stirring of 17 hours and after cooling to 20° C, the mixture was diluted with 140 ml of water and extracted 3 times with 50 ml of methylene chloride. The organic phase was washed with 50 ml of an aqueous saturated sodium bicarbonate solution and twice with 50 ml of water, dried over sodium sulfate and evaporated to dryness under reduced pressure to obtain 10.76 g of 3-(3'-oxo-butyl)-benzophenone which was utilized as is for the next step.

reactant | 3-(2'-oxo-3'-ethoxycarbonylbutyl)-benzophenone | 14.2 g | O=C(CC=1C=C(C(=O)C2=CC=CC=C2)C=CC1)C(C)C(=O)OCC | C20H20O4
reactant | hydrochloric acid | 6N, 142 ml | Cl | ClH
reactant | water | 140 ml | O | H2O
product | 3-(3'-oxo-butyl)-benzophenone | 10.76 g | O=C(CCC=1C=C(C(=O)C2=CC=CC=C2)C=CC1)C | C17H16O2
